US08633173B2
[4-{4-[8-(2-Methoxy-5-trifluoromethyl-pyridin-3-yl)-[1,2,4]triazolo[1,5-a]pyridin-2-ylamino]-phenyl}-piperidine-1-carboxylic acid tert-butyl ester was prepared from 2-chloro-8-(2-methoxy-5-trifluoromethyl-pyridin-3-yl)-[1,2,4]triazolo[1,5-a]pyridine and 4-(4-amino-phenyl)-piperidine-1-carboxylic acid tert-butyl ester, with 2,2′-bis-dicyclohexylphosphanyl-biphenyl as the ligand in a manner analogous to Example 2d (0.233 g, 41%). MP=142-144° C. 1H NMR (400 MHz, (D3C)2SO, δ, ppm): 9.75 (s, 1H), 8.80 (d, 1H), 8.65 (s, 1H), 8.55 (s, 1H), 7.85 (d, 1H), 7.55 (d, 2H), 7.02 (m, 3H), 4.05 (m, 2H), 3.90 (s, 3H), 2.6-2.8 (m, 3H), 1.65 (m, 2H), 1.40 (m, 11H). MS=569 (MH)+.

reactant | 2-chloro-8-(2-methoxy-5-trifluoromethyl-pyridin-3-yl)-[1,2,4]triazolo[1,5-a]pyridine | ClC1=NN2C(C(=CC=C2)C=2C(=NC=C(C2)C(F)(F)F)OC)=N1 | C13H8ClF3N4O
reactant | 4-(4-amino-phenyl)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=CC=C(C=C1)N | C16H24N2O2
reactant | 2,2′-bis-dicyclohexylphosphanyl-biphenyl | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1)P(C1CCCCC1)C1CCCCC1)C1CCCCC1 | C36H52P2
product | 4-{4-[8-(2-Methoxy-5-trifluoromethyl-pyridin-3-yl)-[1,2,4]triazolo[1,5-a]pyridin-2-ylamino]-phenyl}-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=CC=C(C=C1)NC1=NN2C(C(=CC=C2)C=2C(=NC=C(C2)C(F)(F)F)OC)=N1 | C29H31F3N6O3
